2135-12-08 10:59:00 Physician Attending Progress Note
Chief Complaint: Shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 y/o NH resident with PMHx of A fib, Sz disorder, oropharyngeal SCC,
   aspiration PNA requiring trach, severe burn injury [**2132**] who p/w
   hypoxemia and subsequently became hypotensive (requiring pressors) and
   somnolent (requiring intubation).
   24 Hour Events:
   o/n: Ruled in for NSTEMI.  Heparin gtt started.
 BLOOD CULTURED - At [**2135-12-7**] 10:00 AM
   from CVL
 SPUTUM CULTURE - At [**2135-12-7**] 10:00 AM
 ULTRASOUND - At [**2135-12-7**] 01:30 PM
   BLE dopplers
 ARTERIAL LINE - START [**2135-12-7**] 03:14 PM
 BLOOD CULTURED - At [**2135-12-7**] 05:30 PM
   from aline
 EKG - At [**2135-12-8**] 12:00 AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2135-12-7**] 11:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-12-8**] 05:50 AM
   Ciprofloxacin - [**2135-12-8**] 08:00 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-12-7**] 11:57 PM
   Fentanyl - [**2135-12-8**] 08:00 AM
   Other medications:
   colace, neurontin, ASA, protonix, levothyrox, linezolid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-8**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 65 (49 - 74) bpm
   BP: 109/52(73) {80/41(56) - 145/65(95)} mmHg
   RR: 34 (20 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 7 (4 - 250)mmHg
   Total In:
                                                                  7,034 mL
                                                                  2,117 mL
   PO:
   TF:
   IVF:
                                                                  6,154 mL
                                                                  1,967 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,095 mL
                                                                  1,655 mL
   Urine:
                                                                  2,095 mL
                                                                  1,655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,939 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 308 (308 - 308) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   RSBI Deferred: No Spon Resp
   PIP: 15 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.38/36/122/21/-2
   Ve: 7.3 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General: Responds to voice  squeezes hand but can
t follow other
   commands.
   HEENT: PERRL.  ETT in place.
   CV: Regular S1,S2. No murmers/rubs/gallops.
   Lungs:  CTA anteriorly.
   Abdomen: +BS. Soft. NT. ND.
   Peripheral Vascular: B/L BKA
   Labs / Radiology
   9.1 g/dL
   301 K/uL
   71 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   17 mg/dL
   111 mEq/L
   138 mEq/L
   28.4 %
   12.1 K/uL
        [image002.jpg]
                            [**2135-12-7**]  05:06 AM
                            [**2135-12-7**]  09:09 AM
                            [**2135-12-7**]  09:52 AM
                            [**2135-12-7**]  05:06 PM
                            [**2135-12-7**]  05:29 PM
                            [**2135-12-7**]  09:59 PM
                            [**2135-12-7**]  11:58 PM
                            [**2135-12-8**]  04:17 AM
                            [**2135-12-8**]  07:13 AM
   WBC
   12.1
   Hct
   29.1
   28.4
   Plt
   301
   Cr
   1.5
   1.1
   1.0
   TropT
   0.20
   0.25
   0.43
   0.34
   TCO2
   25
   27
   24
   20
   22
   Glucose
   96
   88
   71
   Other labs: PT / PTT / INR:20.6/50.5/1.9, CK / CKMB /
   Troponin-T:132/19/0.34, ALT / AST:[**11-10**], Alk Phos / T Bili:394/0.6,
   Fibrinogen:656 mg/dL, Lactic Acid:0.6 mmol/L, LDH:220 IU/L, Ca++:7.1
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   1.Septic shock
 pressor requirement decreased.  U/O remains robust.
   Plan to wean neo.   Source possibly sacral decub vs. pulmonary,
   although CXR relatively unimpressive, although retrocardiac opacity had
   blossomed.
   -Complete linezolid/cefepime x 8days, plan for plastics eval at [**Hospital1 **] or
   [**Hospital1 49**]
   -Maintain CVP >8 if continues to have vasopressor requirement, but
   transitioning toward extubation.
   2. Resp failure
  component of hypoxemia [**2-14**] above infitrates, but no
   comfortable on PS .4, [**5-17**].  Secretions minimal, suctioning q4h.  If
   patient can follow commands adequately, and vasopressors dc
d, will
   consider extubation.
   -turn off versed, [**Month (only) 202**] fentanyl
   -SBT, possible extubation
   3. NSTEMI- demand, most likely, vs small thrombotic event.
   -check TTE
   -cont heparin x48h, pending TTE.
   3. ARF- improved.
   Other issues per Dr. [**First Name (STitle) 684**] note.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-12-7**] 05:30 AM
   18 Gauge - [**2135-12-7**] 05:30 AM
   Arterial Line - [**2135-12-7**] 03:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 35 minutes
   Patient is critically ill

2135-12-09 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2135-12-9**] 06:19 AM
   Unable to wean from vent [**2-14**] weakness
   Attempted SBT and went into SVT around 200 then broke into A-fib
   Unable to wean phenylephrine
   Wound draining purulent fluid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2135-12-7**] 11:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-12-8**] 05:50 AM
   Ciprofloxacin - [**2135-12-8**] 08:00 AM
   Cefipime - [**2135-12-9**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Heparin Sodium - 700 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2135-12-9**] 06:16 AM
   Midazolam (Versed) - [**2135-12-9**] 06:17 AM
   Metoprolol - [**2135-12-9**] 07:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-9**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 140 (61 - 173) bpm
   BP: 114/72(87) {82/45(60) - 124/72(87)} mmHg
   RR: 12 (7 - 44) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  3,995 mL
                                                                  1,323 mL
   PO:
   TF:
   IVF:
                                                                  3,785 mL
                                                                  1,263 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                    995 mL
   Urine:
                                                                  3,735 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    260 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 621 (308 - 703) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.34/40/119/21/-3
   Ve: 9.2 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   10.5 g/dL
   74 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   10 mg/dL
   110 mEq/L
   140 mEq/L
   34.2 %
   8.8 K/uL
        [image002.jpg]
                            [**2135-12-7**]  05:29 PM
                            [**2135-12-7**]  09:59 PM
                            [**2135-12-7**]  11:58 PM
                            [**2135-12-8**]  04:17 AM
                            [**2135-12-8**]  07:13 AM
                            [**2135-12-8**]  12:11 PM
                            [**2135-12-8**]  03:53 PM
                            [**2135-12-9**]  03:58 AM
                            [**2135-12-9**]  04:13 AM
                            [**2135-12-9**]  05:50 AM
   WBC
   12.1
   8.8
   Hct
   28.4
   34.2
   Plt
   301
   304
   Cr
   1.1
   1.0
   0.8
   TropT
   0.43
   0.34
   0.36
   TCO2
   24
   20
   22
   23
   23
   21
   23
   Glucose
   88
   71
   74
   Other labs: PT / PTT / INR:20.6/57.2/1.9, CK / CKMB /
   Troponin-T:78/19/0.36, ALT / AST:[**11-10**], Alk Phos / T Bili:394/0.6,
   Fibrinogen:656 mg/dL, Lactic Acid:0.6 mmol/L, LDH:220 IU/L, Ca++:7.1
   mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   61 yom with hx of Atrial, chronic sacral wound and sepsis now w/ NSTEMI
   .
   # Sepsis:  CXR not impressive, lung mechanics good, oxygenating well,
   small amount of yellow sputum. Could be lung source but would be
   concerned about wound source given purulent drainage. No resistant GNRs
   on culture so will stop cipro. Flu negative d/c
d tamilflu. UOP has
   been very good so will tolerate lower CVPs as will be trying to
   extubate.
   - Plastics consult when off pressors and vent
   - Linezolid, cefepime
   - d/c cipro
   - send sputum GS/Cultures
   - boluses as needed goal UOP>50 cc/hr.
   - f/u blood cultures
   - f/u urine cultures
   - f/u sputum cultures
   .
   # Respiratory Failure:  ? PNA. Tolerating PS 5/5 well. RSBI 40
   - d/c midazolam and plan for extubation this afternoon
   .
   # NSTEMI: Likely demand in the setting of sepsis and demand ischemia.
   Will check echo for WMA.
   - Continue medical management as not cath candidate
   - ASA, heparin, atorvastatin
   - Wean neosynephrine as soon as possible
   .
   # ARF: Resolved
   - IVF boluse as above
   - trend Cr daily
   .
   # Seizure disorder: cont home Depakote
   .
   # chronic pain: hold home methadone, percocet while on fentanyl gtt,
   restart once extubated
   .
   # constipation: bowel regimen, uptitrate as needed
   .
   # hypothyroidism: Levothyroxine IV while intubated
   .
   # FEN: IVFs / replete lytes prn / NPO/ plan to place NGT this morning
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: RIJ CVL
   # CODE: presumed Full, will confirm with NH
   # CONTACT:  [**Name (NI) **] [**Name (NI) **], number in chart
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-12-7**] 05:30 AM
   18 Gauge - [**2135-12-7**] 05:30 AM
   Arterial Line - [**2135-12-7**] 03:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-12-09 07:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    61 y/o NH resident with PMHx of A fib, Sz disorder, oropharyngeal SCC,
   aspiration PNA requiring trach, severe burn injury [**2132**] a/w sepsis.
   24 Hour Events:
 EKG - At [**2135-12-9**] 06:19 AM
   History obtained from Patient, Responds to questions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2135-12-7**] 11:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-12-8**] 05:50 AM
   Ciprofloxacin - [**2135-12-8**] 08:00 AM
   Cefipime - [**2135-12-9**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Heparin Sodium - 700 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2135-12-9**] 06:16 AM
   Midazolam (Versed) - [**2135-12-9**] 06:17 AM
   Metoprolol - [**2135-12-9**] 07:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-9**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 140 (61 - 173) bpm
   BP: 114/72(87) {82/45(60) - 124/72(87)} mmHg
   RR: 12 (7 - 44) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  3,995 mL
                                                                  1,331 mL
   PO:
   TF:
   IVF:
                                                                  3,785 mL
                                                                  1,271 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                    995 mL
   Urine:
                                                                  3,735 mL
                                                                    995 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    260 mL
                                                                    336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 621 (308 - 703) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.34/40/119/21/-3
   Ve: 9.2 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General: Responds to voice  squeezes hand but can
t follow other
   commands.  Last night on re-evaluation patient responsive, answered
   questions with nod, followed commands, augmented Vt to 1L (on [**5-17**]).
   HEENT: PERRL.  ETT in place.
   CV: Regular S1,S2. No murmers/rubs/gallops.
   Lungs:  CTA anteriorly.
   Abdomen: +BS. Soft. NT. ND.
   Peripheral Vascular: B/L BKA
   Labs / Radiology
   10.5 g/dL
   304 K/uL
   74 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   10 mg/dL
   110 mEq/L
   140 mEq/L
   34.2 %
   8.8 K/uL
        [image002.jpg]
                            [**2135-12-7**]  05:29 PM
                            [**2135-12-7**]  09:59 PM
                            [**2135-12-7**]  11:58 PM
                            [**2135-12-8**]  04:17 AM
                            [**2135-12-8**]  07:13 AM
                            [**2135-12-8**]  12:11 PM
                            [**2135-12-8**]  03:53 PM
                            [**2135-12-9**]  03:58 AM
                            [**2135-12-9**]  04:13 AM
                            [**2135-12-9**]  05:50 AM
   WBC
   12.1
   8.8
   Hct
   28.4
   34.2
   Plt
   301
   304
   Cr
   1.1
   1.0
   0.8
   TropT
   0.43
   0.34
   0.36
   TCO2
   24
   20
   22
   23
   23
   21
   23
   Glucose
   88
   71
   74
   Other labs: PT / PTT / INR:20.6/57.2/1.9, CK / CKMB /
   Troponin-T:78/19/0.36, ALT / AST:[**11-10**], Alk Phos / T Bili:394/0.6,
   Fibrinogen:656 mg/dL, Lactic Acid:0.6 mmol/L, LDH:220 IU/L, Ca++:7.1
   mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Impression:
   61-year-old man with complex prior history now with sepsis and
   respiratory failure.
   1.Septic shock
 pressor requirement decreased but remains.  U/O
   remains robust.  We continue to try to wean neo.  [**Month (only) 11**] remain with small
   requirement due to preload reduction via PPV and component of
   sedation/analgesia (although doesn
t completely resolve in that
   setting).  Source remains most likely sacral decub, less c/w pulmonary.
   CXR relatively unimpressive, although retrocardiac opacity.
   -Complete linezolid/cefepime x 8days, depdning on cultures and further
   evaluation of decub.
   -Anticipate need for more definitive management of decub (plastics eval
   at [**Hospital1 **] or [**Hospital1 49**])
   -Re-check CVP to insure that volume status has not vasopressor
   requirement.
   - check cortisol
   2. Resp failure
  minimal component of hypoxemia [**2-14**] above infitrates,
   but not comfortable on PS .4, [**5-17**].  Secretions minimal, suctioning
   q4h.  If patient can follow commands adequately, will consider
   extubation.
   -turn off versed/ fentanyl
   -SBT x at lease one hour given h/o oropharyngeal ca and prior trach.
   3. NSTEMI- demand, most likely, vs small thrombotic event.
   -await TTE
   3. ARF- improved.
   Other issues per Dr. [**First Name (STitle) 684**] note.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-12-7**] 05:30 AM, [**Hospital1 1**]
   18 Gauge - [**2135-12-7**] 05:30 AM
   Arterial Line - [**2135-12-7**] 03:14 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 30 minutes
   Patient is critically ill
   6pm addendum
   Although Mr. [**Known lastname 9498**] did well on [**5-17**], the combination of residual
   vasopressor requirement, minimal cuff leak, oropharyngeal cancer, and
   secretions suggests we should wait another day and reassess for
   extubation

2135-12-10 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2135-12-9**] 02:39 PM
   Passed SBP, tolerating [**5-17**] well.  Not extubated given h/o trach and
   esophageal cx + absent cuff leak.  Likely stable to extubate tomorrow
   Started fentanyl TP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2135-12-7**] 11:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-12-8**] 05:50 AM
   Ciprofloxacin - [**2135-12-8**] 08:00 AM
   Linezolid - [**2135-12-9**] 08:10 PM
   Cefipime - [**2135-12-10**] 02:02 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 43.7 mcg/hour
   Other ICU medications:
   Metoprolol - [**2135-12-9**] 07:45 AM
   Diltiazem - [**2135-12-9**] 08:05 AM
   Fentanyl - [**2135-12-9**] 11:21 AM
   Heparin Sodium (Prophylaxis) - [**2135-12-10**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-10**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 62 (62 - 141) bpm
   BP: 94/47(65) {85/39(56) - 131/69(88)} mmHg
   RR: 33 (16 - 47) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 2 (-1 - 11)mmHg
   Total In:
                                                                  3,776 mL
                                                                    261 mL
   PO:
   TF:
   IVF:
                                                                  3,716 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    740 mL
   Urine:
                                                                  3,400 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    376 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 528 (437 - 692) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   SpO2: 100%
   ABG: 7.29/46/141/20/-4
   Ve: 5.3 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General: Sedated on vent. Responds to voice  squeezes hand but can
   follow other commands.
   HEENT: PERRL.  ETT in place.
   CV: Regular S1,S2. No murmers/rubs/gallops.
   Lungs:  CTAB
   Abdomen: +BS. Soft. NT. ND.  Large area of healed burn wound
   Peripheral Vascular: B/L BKA
   Labs / Radiology
   [**12-9**] Echo
   The left atrium is mildly dilated. Left ventricular wall thickness,
   cavity size and regional/global systolic function are normal (LVEF
   >55%). Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets (3) are mildly thickened but aortic stenosis
   is not present. Trace aortic regurgitation is seen. The mitral valve
   appears structurally normal with trivial mitral regurgitation. There is
   no mitral valve prolapse. There is mild pulmonary artery systolic
   hypertension. There is no pericardial effusion.
   IMPRESSION: Normal regional and global biventricular systolic function.
   No significant valvular abnormality seen.
   291 K/uL
   10.2 g/dL
   63 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.9 mEq/L
   8 mg/dL
   112 mEq/L
   140 mEq/L
   32.6 %
   8.2 K/uL
        [image002.jpg]
                            [**2135-12-8**]  04:17 AM
                            [**2135-12-8**]  07:13 AM
                            [**2135-12-8**]  12:11 PM
                            [**2135-12-8**]  03:53 PM
                            [**2135-12-9**]  03:58 AM
                            [**2135-12-9**]  04:13 AM
                            [**2135-12-9**]  05:50 AM
                            [**2135-12-9**]  02:27 PM
                            [**2135-12-10**]  04:57 AM
                            [**2135-12-10**]  05:12 AM
   WBC
   12.1
   8.8
   8.2
   Hct
   28.4
   34.2
   32.6
   Plt
   [**Telephone/Fax (3) 9558**]
   Cr
   1.0
   0.8
   0.7
   TropT
   0.34
   0.36
   TCO2
   22
   23
   23
   21
   23
   21
   23
   Glucose
   71
   74
   63
   Other labs: PT / PTT / INR:25.5/41.9/2.5, CK / CKMB /
   Troponin-T:78/19/0.36, ALT / AST:[**11-10**], Alk Phos / T Bili:394/0.6,
   Fibrinogen:656 mg/dL, Lactic Acid:0.6 mmol/L, LDH:220 IU/L, Ca++:7.8
   mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   61 yom with hx of Atrial fibrillation and RVR, chronic sacral wound and
   sepsis w/ NSTEMI
   .
   # Sepsis/Hypotension:  Still on small amount of neo. Making profuse
   urine which is not extremely dilute. Oxygenating well and lung
   compliance good. Still has significant greenish secretions, possibly
   pulmonary source
   - Linezolid, cefepime x 7 days
   - send sputum GS/Cultures
   - boluses as needed goal UOP>50 cc/hr and MAP>60
   - Wean neo
   - f/u blood cultures
   - f/u urine cultures
   - f/u sputum cultures
   .
   # Respiratory Failure:  ? PNA. Tolerating PS 5/5 well. Still not
   responding well to commands, has some secretions.
   - Continue off sedation
   - Attempt extubation this afternoon if following commands.
   .
   # NSTEMI: Likely demand in the setting of sepsis and demand ischemia as
   no WMA on echo.
   - Continue medical management as not cath candidate
   - ASA, atorvastatin
   - Wean neosynephrine as soon as possible
   - Stopped heparin
   .
   # ARF: Resolved
   - Urine lytes for possible DI
   - IVF boluse as above
   - trend Cr daily
   .
   # Seizure disorder: cont home Depakote
   - check depakote level
   .
   # chronic pain: hold home methadone, percocet while on fentanyl gtt,
   restart once extubated
   .
   # constipation: bowel regimen, uptitrate as needed
   .
   # hypothyroidism: Levothyroxine IV while intubated
   .
   # FEN: IVFs / replete lytes prn
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: RIJ CVL
   # CODE: presumed Full, will confirm with NH
   # CONTACT:  [**Name (NI) **] [**Name (NI) **], number in chart
   # DISPO: ICU

2135-12-10 07:35:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   HPI:
    61 y/o NH resident with PMHx of A fib, Sz disorder, oropharyngeal SCC,
   aspiration PNA requiring trach, severe burn injury [**2132**] a/w sepsis.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2135-12-9**] 02:39 PM\
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2135-12-7**] 11:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-12-8**] 05:50 AM
   Ciprofloxacin - [**2135-12-8**] 08:00 AM
   Linezolid - [**2135-12-9**] 08:10 PM
   Cefipime - [**2135-12-10**] 02:02 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 43.7 mcg/hour
   Other ICU medications:
   Metoprolol - [**2135-12-9**] 07:45 AM
   Diltiazem - [**2135-12-9**] 08:05 AM
   Fentanyl - [**2135-12-9**] 11:21 AM
   Heparin Sodium (Prophylaxis) - [**2135-12-10**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-10**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 62 (62 - 124) bpm
   BP: 94/47(65) {85/39(56) - 131/69(88)} mmHg
   RR: 33 (16 - 47) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 2 (-1 - 11)mmHg
   Total In:
                                                                  3,776 mL
                                                                    264 mL
   PO:
   TF:
   IVF:
                                                                  3,716 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                    740 mL
   Urine:
                                                                  3,400 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    376 mL
                                                                   -476 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 528 (437 - 692) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   SpO2: 100%
   ABG: 7.29/46/141/20/-4
   Ve: 5.3 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General: Responds to voice  squeezes hand but can
t follow other
   commands.  Last night on re-evaluation patient responsive, answered
   questions with nod, followed commands, augmented Vt to 1L (on [**5-17**]).
   HEENT: PERRL.  ETT in place.
   CV: Regular S1,S2. No murmers/rubs/gallops.
   Lungs:  CTA anteriorly.
   Abdomen: +BS. Soft. NT. ND.
   Peripheral Vascular: B/L BKA
   Labs / Radiology
   10.2 g/dL
   291 K/uL
   63 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.9 mEq/L
   8 mg/dL
   112 mEq/L
   140 mEq/L
   32.6 %
   8.2 K/uL
        [image002.jpg] TTE: Trace AR.
                            [**2135-12-8**]  04:17 AM
                            [**2135-12-8**]  07:13 AM
                            [**2135-12-8**]  12:11 PM
                            [**2135-12-8**]  03:53 PM
                            [**2135-12-9**]  03:58 AM
                            [**2135-12-9**]  04:13 AM
                            [**2135-12-9**]  05:50 AM
                            [**2135-12-9**]  02:27 PM
                            [**2135-12-10**]  04:57 AM
                            [**2135-12-10**]  05:12 AM
   WBC
   12.1
   8.8
   8.2
   Hct
   28.4
   34.2
   32.6
   Plt
   [**Telephone/Fax (3) 9558**]
   Cr
   1.0
   0.8
   0.7
   TropT
   0.34
   0.36
   TCO2
   22
   23
   23
   21
   23
   21
   23
   Glucose
   71
   74
   63
   Other labs: PT / PTT / INR:25.5/41.9/2.5, CK / CKMB /
   Troponin-T:78/19/0.36, ALT / AST:[**11-10**], Alk Phos / T Bili:394/0.6,
   Fibrinogen:656 mg/dL, Lactic Acid:0.6 mmol/L, LDH:220 IU/L, Ca++:7.8
   mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Impression:
   61-year-old man with h/o oropharyngeal ca, severe burn injury w/ b/l
   BKA and severe sacral decubitus ulcer a/w sepsis and respiratory
   failure.
   1.Septic shock
 vasopressor requirement decreased but remains.  U/O
   remains robust.  We continue to try to wean neo.  [**Month (only) 11**] remain with small
   requirement due to preload reduction via PPV and component of
   sedation/analgesia (although doesn
t completely resolve in that
   setting).  Source remains most likely sacral decub, less c/w pulmonary.
   CXR w/ retrocardiac opacity.  --Cortisol level low normal so will plan
   for [**Last Name (un) **] stim.
   -Complete linezolid/cefepime x 8days, depending on cultures and further
   evaluation of decub.
   -Anticipate need for more definitive management of decub (plastics eval
   at [**Hospital1 **] or [**Hospital1 49**])
   -Given ongoing vasopressor requirement f/u CVP and maintain >6
   2. Resp failure
  minimal component of hypoxemia [**2-14**] above infitrates,
   remains comfortable PS .4, [**5-17**].  Secretions minimal, suctioning q4h.
   If patient can follow commands adequately, will consider extubation.
   h/o trach and prior oropharyngeal ca requires judicious assessment.
   -turn off versed/ fentanyl
   -SBT x at lease one hour given h/o oropharyngeal ca and prior trach.
   -On [**5-17**] had metabolic and resp acidosis (slight).  Plan to re-check
   ABG.
   3. NSTEMI- demand, most likely, although cannot r/o small thrombotic
   event. TTE w/o evidence of WMA.
   4. ARF- improved.
   -check valproate level
   Other issues per Dr. [**First Name (STitle) 684**] note.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-12-7**] 05:30 AM, [**Hospital1 1**]
   18 Gauge - [**2135-12-7**] 05:30 AM
   Arterial Line - [**2135-12-7**] 03:14 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient with acute respiratory failure and hypotension from presumed
   sepsis. WBC has normalized and he has defervesced. Now on 40% oxygen
   and PSV 5/5. Continues on small doses of phenylephrine for BP support.
   CVP has been [**4-20**]. When given fluid, he tends to have high urine output
   and sustains constant CVP.  Cortisol level okay. Secretions have
   improved, but remain moderate in amount.
   On exam: patient is intubated and comfortable. Chest reveals few
   rhonchi centrally. S1 and S2 are normal. No gallop or murmur. Abdomen
   with active bowel sounds. No tenderness or guarding. Bilateral BKA.
   Would give fluids to maintain urine output > 50 cc/hr. Phenylephrine
   now off. If it needs to be restarted, would add vasopressin. Give
   additional 16 hours of bronchopulmonary hygiene; consider extubation in
   AM if secretions not worse.
   Critical Care: 30 mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) 161**] [**Last Name (NamePattern1) **], MD
   on:[**2135-12-10**] 16:14 ------

2135-12-11 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Sedation weaned yesterday morning with limited ability to follow
   commands over the course of the day.  Mental status then improved at
   11pm but with copious yellow secretions and in AFIB/RVR.
   - Propofol started, pt placed on [**10-17**] overnight; rate control achieved
   (160-->100) with metoprolol 5mg IV, then converted to sinus w/in 1
   hour.
   - weaned off pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2135-12-8**] 08:00 AM
   Linezolid - [**2135-12-10**] 08:40 AM
   Cefipime - [**2135-12-11**] 02:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-12-10**] 02:07 PM
   Metoprolol - [**2135-12-10**] 11:00 PM
   Pantoprazole (Protonix) - [**2135-12-11**] 07:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-11**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 79 (56 - 160) bpm
   BP: 118/60(82) {91/47(61) - 134/71(89)} mmHg
   RR: 9 (6 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 4 (1 - 18)mmHg
   Total In:
                                                                  3,871 mL
                                                                  1,646 mL
   PO:
   TF:
   IVF:
                                                                  3,711 mL
                                                                  1,646 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    340 mL
   Urine:
                                                                  2,330 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                  1,306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (328 - 750) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.31/37/162/20/-6
   Ve: 10.3 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Gen: Responds to commands
   HEENT: ETT in place
   Heart: RRR, No MRG
   Lungs: CTAB
   ABD: Large well healed burn wound, soft, NT, ND, BS+
   Ext: BL BKA, trace edema
   Labs / Radiology
   [**12-11**] CXR: Interval improvement in retrocardiac opacity
   257 K/uL
   9.7 g/dL
   133 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.3 mEq/L
   8 mg/dL
   113 mEq/L
   139 mEq/L
   29.8 %
   6.1 K/uL
        [image002.jpg]
                            [**2135-12-8**]  12:11 PM
                            [**2135-12-8**]  03:53 PM
                            [**2135-12-9**]  03:58 AM
                            [**2135-12-9**]  04:13 AM
                            [**2135-12-9**]  05:50 AM
                            [**2135-12-9**]  02:27 PM
                            [**2135-12-10**]  04:57 AM
                            [**2135-12-10**]  05:12 AM
                            [**2135-12-10**]  03:23 PM
                            [**2135-12-11**]  02:43 AM
   WBC
   8.8
   8.2
   6.1
   Hct
   34.2
   32.6
   29.8
   Plt
   [**Telephone/Fax (3) 9564**]
   Cr
   0.8
   0.7
   0.7
   TropT
   0.36
   TCO2
   23
   23
   21
   23
   21
   23
   20
   Glucose
   74
   63
   133
   Other labs: PT / PTT / INR:28.4/45.0/2.8, CK / CKMB /
   Troponin-T:78/19/0.36, ALT / AST:[**6-20**], Alk Phos / T Bili:303/0.2,
   Fibrinogen:656 mg/dL, Lactic Acid:0.5 mmol/L, LDH:87 IU/L, Ca++:7.6
   mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   61 yom with hx of Atrial fibrillation and RVR, chronic sacral wound w/
   NSTEMI and resolving sepsis
   .
   # Sepsis/Hypotension:  Resolved, given quick improvement in CXR would
   doubt lung as a source. Would strongly consider decubitus ulcer as
   elevated alk phos and purulent drainage from sacral wound. Also
   elevated GGT so will look for biliary source though doubt given normal
   bilirubin.
   - Linezolid, cefepime x 7 days unless imaging shows osteomyelitis
   - f/u blood cultures
   - f/u urine cultures
   - f/u sputum cultures
   - Surgery consult for management of sacral decub
   - consider MRI of sacrum
   - RUQ U/S
   .
   # Respiratory Failure:  Extubated, not tachypnic, oxygenating well.
   - Recheck ABG and d/c Aline if not hypercarbic
   .
   # NSTEMI: Likely demand in the setting of sepsis and demand ischemia as
   no WMA on echo.
   - Continue medical management as not cath candidate
   - ASA, atorvastatin
   - Wean neosynephrine as soon as possible
   - Stopped heparin
   .
   # ARF: Resolved
   - Urine lytes for possible DI
   - IVF boluse as above
   - trend Cr daily
   .
   # Seizure disorder: cont home Depakote
   - check depakote level
   .
   # chronic pain: hold home methadone, percocet while on fentanyl gtt,
   restart once extubated
   .
   # constipation: bowel regimen, uptitrate as needed
   .
   # hypothyroidism: switch to PO now that he is extubated
   .
   # FEN: IVFs / replete lytes prn
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: RIJ CVL
   # CODE: presumed Full, will confirm with NH
   # CONTACT:  [**Name (NI) **] [**Name (NI) **], number in chart
   # DISPO: Floor if remains stable

2135-12-11 08:10:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   61 y/o NH resident with PMHx of A fib, Sz disorder, oropharyngeal SCC,
   aspiration PNA requiring trach, severe burn injury [**2132**] a/w sepsis.
   24 Hour Events:
   Remains off vasopressors.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2135-12-10**] 08:40 AM
   Cefipime - [**2135-12-11**] 02:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-12-10**] 02:07 PM
   Metoprolol - [**2135-12-10**] 11:00 PM
   Pantoprazole (Protonix) - [**2135-12-11**] 07:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-11**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 79 (56 - 160) bpm
   BP: 118/60(82) {91/47(61) - 134/71(89)} mmHg
   RR: 9 (6 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 4 (1 - 18)mmHg
   Total In:
                                                                  3,871 mL
                                                                  1,831 mL
   PO:
   TF:
   IVF:
                                                                  3,711 mL
                                                                  1,751 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    680 mL
   Urine:
                                                                  2,330 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                  1,151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   Vt (Spontaneous): 380 (328 - 750) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.31/37/162/20/-6
   Ve: 6 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General: Responds to voice follows some commands.  .
   HEENT: PERRL.  ETT in place.
   CV: Regular S1,S2. No murmers/rubs/gallops.
   Lungs:  CTA anteriorly.
   Abdomen: +BS. Soft. NT. ND.
   Peripheral Vascular: B/L BKA
   Labs / Radiology
   9.7 g/dL
   257 K/uL
   133 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.3 mEq/L
   8 mg/dL
   113 mEq/L
   139 mEq/L
   29.8 %
   6.1 K/uL
        [image002.jpg] INR 2.8
                            [**2135-12-8**]  12:11 PM
                            [**2135-12-8**]  03:53 PM
                            [**2135-12-9**]  03:58 AM
                            [**2135-12-9**]  04:13 AM
                            [**2135-12-9**]  05:50 AM
                            [**2135-12-9**]  02:27 PM
                            [**2135-12-10**]  04:57 AM
                            [**2135-12-10**]  05:12 AM
                            [**2135-12-10**]  03:23 PM
                            [**2135-12-11**]  02:43 AM
   WBC
   8.8
   8.2
   6.1
   Hct
   34.2
   32.6
   29.8
   Plt
   [**Telephone/Fax (3) 9564**]
   Cr
   0.8
   0.7
   0.7
   TropT
   0.36
   TCO2
   23
   23
   21
   23
   21
   23
   20
   Glucose
   74
   63
   133
   Other labs: PT / PTT / INR:28.4/45.0/2.8, CK / CKMB /
   Troponin-T:78/19/0.36, ALT / AST:[**6-20**], Alk Phos / T Bili:303/0.2,
   Fibrinogen:656 mg/dL, Lactic Acid:0.5 mmol/L, LDH:87 IU/L, Ca++:7.6
   mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan:
   61-year-old man with h/o oropharyngeal ca, severe burn injury w/ b/l
   BKA and severe sacral decubitus ulcer a/w sepsis and respiratory
   failure.
   1.Septic shock
 now off vasopressors, stable.  Uo remains robust.
   Source remains most likely sacral decub, less c/w pulmonary. CXR w/
   retrocardiac opacity rapidly resolved. Nl [**Last Name (un) **] stim.
   -Complete linezolid/cefepime x 8days, complete [**12-13**], depending on
   cultures and further evaluation of decub.
   -Anticipate need for more definitive management of decub (plastics eval
   at [**Hospital1 **] or [**Hospital1 49**])
   2. Resp failure
  hypoxemic.  Plan to extubate today.  Secretions
   continue to improve, suctioning q4h.  If patient can follow commands
   adequately, will consider extubation.   h/o trach and prior
   oropharyngeal ca requires judicious assessment.
   -turn off versed/ fentanyl
   -SBT x at lease one hour given h/o oropharyngeal ca and prior trach.
   -On [**5-17**] had metabolic and resp acidosis (slight).  Plan to re-check
   ABG.
   3. NSTEMI- demand, most likely, although cannot r/o small thrombotic
   event. TTE w/o evidence of WMA.
   4. ARF- improved.
   5. Elevated Alk phos
 check GGT.
   6. Elevated INR
 likely nutritional, but slightly high.  No evidence
   of DIC or acute consumption.
   Other issues per Dr. [**First Name (STitle) 684**] note.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-12-7**] 05:30 AM, [**Hospital1 1**]
   18 Gauge - [**2135-12-7**] 05:30 AM
   Arterial Line - [**2135-12-7**] 03:14 PM
   Prophylaxis:
   DVT: hep sc, change to [**Hospital1 **] given risks around INR above.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the housestaff team for discussion of the
   above history, physical, data and assessment and plan with which I
   agree.  I would add the following comments.
   61 yo male with history of oropharyngeal cancer, s/p BKA, with sacral
   decubitus ulcer now admitted with sepsis.
   Patient has source likely the ulcer with translocation of skin flora to
   provide systemic insult.  Pressors have been discontinued and patient
   extubated this morning.
   EXAM
   Patient alert and interactive
   Lungs-decreased breath sounds but no wheezes, minimal crackles
   EXT
significant edema
   A/[**Last Name 8249**] problem
   1)Sepsis-
   -Continue with broad spectrum antibiotics-_Linezolid/Cefepime
   -Will work towards diuresis as possible
   -Will continue to follow wound care recs for support of ulcer care and
   will discuss with plastic surgery for long term management
   Additional issues to be addressed as defined in the note above.
   Critical Care time-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2135-12-11**] 16:12 ------

2135-12-12 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2135-12-11**] 08:44 AM
   - extubated successfully, on room air
   - afib with RVR overnight ot 170s; pt was refusing to take PO dilt
   during the day; responded to IVFs and IV dilt 20 and IV metoprolol 5;
   then spontaneously converted back to NSR
   - gen [**Doctor First Name **] evaluated patient, recommended switching dressing to
   xeroform and reconsulting plastic surgery
   - vit k given and SQ heparin changed to [**Hospital1 **] for high INR/PTT
   - GGT elevated; ordered liver US
   - still need to consider sacral MRI (not ordered)
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2135-12-10**] 08:40 AM
   Cefipime - [**2135-12-12**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-12-11**] 06:42 PM
   Lorazepam (Ativan) - [**2135-12-11**] 08:45 PM
   Diltiazem - [**2135-12-12**] 02:48 AM
   Metoprolol - [**2135-12-12**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-12**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 87 (78 - 142) bpm
   BP: 137/56(102) {96/45(64) - 143/115(127)} mmHg
   RR: 16 (12 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 5 (2 - 12)mmHg
   Total In:
                                                                  2,808 mL
                                                                  1,247 mL
   PO:
                                                                     50 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,678 mL
                                                                  1,127 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,060 mL
   Urine:
                                                                  1,970 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP
   Vt (Spontaneous): 380 (380 - 380) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 60%
   SpO2: 98%
   ABG: ///22/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   9.1 g/dL
   77 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.0 mEq/L
   6 mg/dL
   112 mEq/L
   141 mEq/L
   29.1 %
   4.6 K/uL
        [image002.jpg]
                            [**2135-12-8**]  03:53 PM
                            [**2135-12-9**]  03:58 AM
                            [**2135-12-9**]  04:13 AM
                            [**2135-12-9**]  05:50 AM
                            [**2135-12-9**]  02:27 PM
                            [**2135-12-10**]  04:57 AM
                            [**2135-12-10**]  05:12 AM
                            [**2135-12-10**]  03:23 PM
                            [**2135-12-11**]  02:43 AM
                            [**2135-12-12**]  03:33 AM
   WBC
   8.8
   8.2
   6.1
   4.6
   Hct
   34.2
   32.6
   29.8
   29.1
   Plt
   [**Telephone/Fax (3) 9581**]20
   Cr
   0.8
   0.7
   0.7
   0.8
   TropT
   0.36
   TCO2
   23
   21
   23
   21
   23
   20
   Glucose
   74
   63
   133
   77
   Other labs: PT / PTT / INR:15.8/32.8/1.4, CK / CKMB /
   Troponin-T:78/19/0.36, ALT / AST:[**7-26**], Alk Phos / T Bili:272/0.3,
   Fibrinogen:656 mg/dL, Lactic Acid:0.5 mmol/L, Albumin:1.7 g/dL, LDH:87
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Imaging: CXR [**12-12**]: My read: slightly increased faint bilateral
   opacities
   Microbiology: Bld cx [**12-7**] NGTD
   Sputum Cx [**12-10**] NGTD
   Assessment and Plan
 SHOCK, SEPTIC
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   61 yom with hx of Atrial fibrillation and RVR, chronic sacral wound w/
   NSTEMI and resolving sepsis
   .
   # Sepsis/Hypotension:  Resolved, given quick improvement in CXR would
   doubt lung as a source. Would strongly consider decubitus ulcer as
   elevated alk phos and purulent drainage from sacral wound. Also
   elevated GGT so will look for biliary source though doubt given normal
   bilirubin.
   - Linezolid, cefepime x 7 days unless imaging shows osteomyelitis
   - f/u blood cultures
   - f/u urine cultures
   - f/u sputum cultures
   - Plastics consult for sacral wound
   - consider MRI of sacrum
   - RUQ U/S
   .
   # Respiratory Failure:  Extubated, not tachypnic, oxygenating well.
   - Recheck ABG and d/c Aline if not hypercarbic
   .
   # NSTEMI: Likely demand in the setting of sepsis and demand ischemia as
   no WMA on echo.
   - Continue medical management as not cath candidate
   - ASA, atorvastatin
   -Con't PO diltiazem for rate control, consider adding BB if not
   controlled
   .
   # Atrial fibrillation: Had one episode of RVR overnight, now stable in
   NSR
   -Con't PO diltiazem for rate control, consider adding BB if not
   controlled
   .
   # ARF: Resolved
   - Urine lytes for possible DI
   - IVF boluse as above
   - trend Cr daily
   .
   # Seizure disorder: cont home Depakote
   - check depakote level
   .
   # chronic pain: On fentanyl patch, restart home methadone if pain not
   controlled
   .
   # constipation: bowel regimen, uptitrate as needed
   .
   # hypothyroidism: switch to PO now that he is extubated
   .
   # FEN: IVFs / replete lytes prn
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: RIJ CVL
   # CODE: presumed Full, will confirm with NH
   # CONTACT:  [**Name (NI) **] [**Name (NI) **], number in chart
   # DISPO: Floor if remains stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-12-7**] 05:30 AM
   18 Gauge - [**2135-12-7**] 05:30 AM
   Arterial Line - [**2135-12-7**] 03:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-12-12 11:05:00 Physician Attending Progress Note
HPI:
    61[**Hospital 9582**] nursing home resident, admitted with likely septic shock in
   setting of sacral decubitus.
   24 Hour Events:
   Extubated yesterday, stable overnight.  Briefly had afib w/ RVR and
   responded to lopressor IV, was hemodynamically stable during event.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2135-12-10**] 08:40 AM
   Cefipime - [**2135-12-12**] 03:00 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-12-11**] 06:42 PM
   Lorazepam (Ativan) - [**2135-12-11**] 08:45 PM
   Diltiazem - [**2135-12-12**] 02:48 AM
   Metoprolol - [**2135-12-12**] 03:00 AM
   Pantoprazole (Protonix) - [**2135-12-12**] 08:08 AM
   Other medications:
   Colace
   ASA
   Neurontin
   Synthroid
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-12-12**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 82 (78 - 142) bpm
   BP: 143/72(100) {96/45(64) - 147/115(127)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 5 (2 - 8)mmHg
   Total In:
                                                                  2,808 mL
                                                                  1,441 mL
   PO:
                                                                     50 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  2,678 mL
                                                                  1,221 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,265 mL
   Urine:
                                                                  1,970 mL
                                                                  1,265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   Physical Examination
   Gen: Awake/alert, follows commands. Neck supple, no [**Doctor First Name **]
   CV: RRR s1s2
   Chest: Clear anterior fields, no crackles/wheeze
   Abd: s/nt/nd
   Ext: 1+ edema B
   Labs / Radiology
   9.1 g/dL
   220 K/uL
   77 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.0 mEq/L
   6 mg/dL
   112 mEq/L
   141 mEq/L
   29.1 %
   4.6 K/uL
        [image002.jpg]
                            [**2135-12-8**]  03:53 PM
                            [**2135-12-9**]  03:58 AM
                            [**2135-12-9**]  04:13 AM
                            [**2135-12-9**]  05:50 AM
                            [**2135-12-9**]  02:27 PM
                            [**2135-12-10**]  04:57 AM
                            [**2135-12-10**]  05:12 AM
                            [**2135-12-10**]  03:23 PM
                            [**2135-12-11**]  02:43 AM
                            [**2135-12-12**]  03:33 AM
   WBC
   8.8
   8.2
   6.1
   4.6
   Hct
   34.2
   32.6
   29.8
   29.1
   Plt
   [**Telephone/Fax (3) 9581**]20
   Cr
   0.8
   0.7
   0.7
   0.8
   TropT
   0.36
   TCO2
   23
   21
   23
   21
   23
   20
   Glucose
   74
   63
   133
   77
   Other labs: PT / PTT / INR:15.8/32.8/1.4, CK / CKMB /
   Troponin-T:78/19/0.36, ALT / AST:[**7-26**], Alk Phos / T Bili:272/0.3,
   Fibrinogen:656 mg/dL, Lactic Acid:0.5 mmol/L, Albumin:1.7 g/dL, LDH:87
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   61yoM presented with hypotension with suspected shock from sacral
   decubitus.
   1.       Septic Shock:  Resolved, off pressors.
   2.       Sacral Decubitus:  suspected source of infection.  Blood
   cultures negative to date
   - Currently on Linezolid and cefepime; will define course after MRI
   - Concern for osteo, plan MRI to evaluate
   - Surgery following regarding decubitus
   3.       Atrial Fibrillation:  Restart BB
   4.       Respiratory failure: extubated yesterday
   5.       Pain control:  chronic pain
   - add oxycodone
   - restart home methadone
   ICU Care
   Nutrition: NPO post-extubation. Advance diet.
   Glycemic Control:  glucose controlled
   Lines:  d/c a-line
   Multi Lumen - [**2135-12-7**] 05:30 AM
   18 Gauge - [**2135-12-7**] 05:30 AM
   Arterial Line - [**2135-12-7**] 03:14 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  Protonix
   VAP:  Not intubated
   Code status: Full code
   Disposition :  Transfer to floor
   Total time spent:  35min